US07692022B2
2,8-Dibenzyl-3-methoxy-6-phenyl-imidazo[1,2-a]pyrazine (Coelenterazine HH methyl ether).
Chemiluminescence of P450 altered coelenterazine or coelenterazine derivatives was determined immediately following addition of 80 microliter of 37.5 mM Hepes pH7.4; 625 mM KCl; 0.125 mM EDTA pH 8.0; 0.25% Triton X-100; 0.125% Mazu; 1.25% Glycerol; 0.25 mg/mL gelatin to the P450 reactions. Renilla luciferase (1.2 ng/mL) (purchased from Chemicon) was added for detection of bioluminescence of P450 altered coelenterazine or coelenterazine derivatives.

reactant | coelenterazine | C=1C=CC(=CC1)CC=2C3=NC(=C(N3C=C(N2)C=4C=CC(=CC4)O)O)CC=5C=CC(=CC5)O | C26H21N3O3
reactant | Hepes | 37.5 mM, 80 microliter, pH7.4 | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | KCl | 625 mM | [Cl-].[K+]
reactant | EDTA | 0.125 mM, pH 8.0 | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
solvent | Glycerol | OCC(O)CO | C3H8O3
product | 2,8-Dibenzyl-3-methoxy-6-phenyl-imidazo[1,2-a]pyrazine | C(C1=CC=CC=C1)C=1N=C2N(C=C(N=C2CC2=CC=CC=C2)C2=CC=CC=C2)C1OC | C27H23N3O
